US08735379B2
To a solution of tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)—N-methyldocosa-4,7,10,13,16,19-hexaenamido)ethylcarbamate (1.71 g, 3.5 mmol)) in dichloromethane (50 mL) at 0° C. was slowly added TFA (17 mL). The mixture was stirred (0° C., 2 h,) basified to pH 10 with saturated aqueous Na2CO3 and extracted with EA (3×150 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to afford (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-aminoethyl)-N-methyldocosa-4,7,10,13,16,19-hexaenamide (1.31 g, 97%) as a light yellow oil.

reactant | tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)—N-methyldocosa-4,7,10,13,16,19-hexaenamido)ethylcarbamate | 3.5 mmol, 1.71 g | CN(C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)CCNC(OC(C)(C)C)=O | C30H48N2O3
reactant | TFA | 17 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-aminoethyl)-N-methyldocosa-4,7,10,13,16,19-hexaenamide | 1.31 g, 97% | NCCN(C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)C | C25H40N2O
